US06927228B2
(b) Ethyl 4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-carboxylate
In a manner similar to that of Example 1(f), by reacting 11.7 g (46 mmol) of ethyl 4′-formylbiphenyl-3-carboxylate with 5.4 g (46 mmol) of 2,4-thiazolidine dione, 13 g (83%) of the expected product are obtained.

reactant | ethyl 4′-formylbiphenyl-3-carboxylate | 46 mmol, 11.7 g | C(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)OCC | C16H14O3
reactant | 2,4-thiazolidine dione | 46 mmol, 5.4 g | S1C(NC(C1)=O)=O | C3H3NO2S
product | Ethyl 4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-carboxylate | 13 g, 83% | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)OCC | C19H15NO4S
